US04379921
Synthesis of 1-(4-chlorophenyl)-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-1-penten-3-one
1-(4-Chlorophenyl)-4,4-dimethyl-1,2-bis(1,2,4-triazol-1-yl)-pentan-3-one (0.5 g) was heated at 180° C. for 1 hour and at 200° C. for 3 hours on an oil bath. After cooling, the mixture was dissolved in chloroform (50 ml), washed with water (50 ml) and concentrated to give yellow oily substance (0.37 g). Triazole (0.095 g; 99%) was recovered from the aqueous layer by concentration. The oily substance was analyzed by the gas-chromatography under the following conditions:

reactant | 1-(4-Chlorophenyl)-4,4-dimethyl-1,2-bis(1,2,4-triazol-1-yl)-pentan-3-one | 0.5 g | ClC1=CC=C(C=C1)C(C(C(C(C)(C)C)=O)N1N=CN=C1)N1N=CN=C1 | C17H19ClN6O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-chlorophenyl)-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-1-penten-3-one | ClC1=CC=C(C=C1)C=C(C(C(C)(C)C)=O)N1N=CN=C1 | C15H16ClN3O
